Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
SOB, dyspnea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo man h/o severe COPD FEV1 0.54 19% on 3L NC O2, DM2, HTN, 
mod obesity admitted with COPD flare.  The patient has had 
multiple admissions in the past for the same problem.  Last 
admit was ___.  He states that he gets this whenever he goes 
out in the heat.  Notes slightly, gradual worsening of SOB over 
the past few weeks, and noted significant worsening this 
morning.  Denies any instigating factors. No significant relieve 
with inhalers.  Is on Prednisone 10 mg QOD.  At baseline, is 
able to ambulate across the room.  
   He had a scheduled visit with his PCP today and was noted to 
have O2 sats of 89-92% on 3L.  He was told to go into the ER.  
In the ER, received solumedrol 120 mg, levo, and got a CXR - 
with no evidence of pneumonia.  Admitted for further mgmt.
   Of note, past week, has had LLE cellulitis treated with 
keflex.  Reports improvement.  Has completed treatment today.  
Getting ___ 2x week for drsg changes.  Describes having stopped 
smoking over the past week.

ROS: Denies fever, chill, worsened rhinorrhea, cough, heart 
burn, chest pain, abd pain, diarrhea.  ROS otherwise negative.
 
Past Medical History:
Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen ___ NC) at baseline, recently he has been having 
monthly admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 43%  

CHF: TTE ___ LVEF>55%  
gastritis/GERD  
h/o SBO  
Tobacco Abuse: Previous 5PPD, now ___ cigs/day  
Diabetes Mellitus type 2 
Diverticulosis  
C6-C7 HERNITATION  
B12 Deficiency- on monthly injections: not on his last d/c 
summary  
Obesity with possible OSA, but pt refuses sleep study or CPAP  
Psoriasis  
Hypertension  
Glaucoma  
Recent LLE cellulitis ___  
 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Physical Exam:
PE: VS: 98.7  148/70  94  24  94% on 4L   BS 380
Gen: obese man sitting in chair with NAD, A&O x3
HEENT: PERRLA, EOMI, psoriatic/flaky dry skin on face (like 
seborrheic dermatitis), large tongue, OP clear, mmm, JVP 
difficult to evaluate, large neck
Heart: tachycardic, S1, S2 nl, no m/r/g
Lungs: decreased BS throughout, no wheezes, rhonchi, crackles 
appreciated, poor airway movement.
Abd: Obese, NT/ND, no rebound/guarding
Ext: 2+ PE up to shin halfway.  L ___ with layers of dressing
Psych: Appropriate affect

 
Pertinent Results:
___ 10:15AM   GLUCOSE-105 UREA N-30* CREAT-1.0 SODIUM-146* 
POTASSIUM-5.3* CHLORIDE-102 TOTAL CO2-35* ANION GAP-14
___ 10:15AM   WBC-10.3 RBC-3.73* HGB-11.0* HCT-34.5* MCV-93 
MCH-29.6 MCHC-32.0 RDW-14.2
___ 10:15AM   PLT COUNT-196

CXR FINDINGS: The lungs are clear with no signs of pneumonia or 
congestive heart 
failure. No pleural effusions or pneumothorax. There is a normal 

cardiomediastinal contour. The visualized osseous structures are 

unremarkable. 
  
IMPRESSION: No acute cardiopulmonary process with no evidence of 
congestive 
heart failure. 

 
Brief Hospital Course:
___ yo man h/o severe COPD FEV1 0.54 (19%), FVC 1.82 (45%), ratio 
43%, on ___ L at home with chronic steroids, obesity, DM2, 
HTN, GERD admitted with COPD flare.  No clear exacerbation - no 
evidence of PNA or bronchitis by exam or imaging.

1. COPD flare 
Patient presented with his typical COPD flare, and was treated 
with IV solumedrol initially, which was subsequently 
transitioned to oral prednisone.  He was treated with 
azithromycin, albuterol and atrovent nebs. With these measures, 
pt began to return to his previous respiratory baseline, which 
is known to be tenuous.  He was discharged on a short steroid 
taper.
.
2. Anemia
Iron studies suggestive of anemia of chronic disease
  - on PPI
.
3. DM2 - 
Patient is known to have diabetes which becomes poorly 
controlled while on steroids.  Pt was initially treated with 
sliding scale insulin in addition to his regular home 
medications.  Pt remained hyperglycemic on this regimen, 
therefore pt was provided NPH insulin to be dosed at the same 
time as the prednisone doses, with improved glycemic control.  
His sugars improved with NPH, and with the steroid taper.  He 
will be discharged off insulin, with daily glyburide until he is 
back on every other day steroids 
.
4. CV - HTN
  - continued on ASA, ACEI, CaCB
.
5. Cellulitis 
Patient was noted to have recently had cellulitis, which 
appeared improved, and had completed course of Keflex prior to 
admission.

 
Medications on Admission:
5% SALICYCLIC ACID IN CLOBETASOL OINTMENT -   - apply to
psoriasis daily do not exceed one month
ALBUTEROL - 90 mcg Aerosol - 2 puffs po four times a day as
needed 30 DAY SUPPLY
ALBUTEROL SULFATE - 2.5 mg/0.5 mL Solution for Nebulization -
0.5ml diluted in 2.5ml NS by inhalation  over 5 to 15 minutes 
___
times a day for severe SOB not relieved by inhalers
ALBUTEROL SULFATE [PROAIR HFA] - 90 mcg HFA Aerosol Inhaler - 2
pufs inhaled 4 times a day as needed 30 day supply
ALENDRONATE [FOSAMAX] - 70 mg Tablet - 1 Tablet by mouth once a
week on the same day of the week.  Take on an empty stomach with
full glass of water.  Remain upright (standing or sitting) for 
30
minutes after taking this medicine and don't take other pills or
eat or drink for 30  minutes
AMLODIPINE - 5 mg Tablet - 1 Tablet by mouth every day
BATH SEAT WITH BACK -   - AS DIRECTED/DX: COPD, O2 DEPENDENT,
DIABETES,NEEDED LIFETIME FOR HOME USE
FLUOCINOLONE-SHOWER CAP ___ SCALP OIL] - 0.01 % 
Oil
- apply to scalp at bedtime under showercap as needed for once
weekly
FLUTICASONE [FLONASE] - 50 mcg Spray, Suspension - 2 sprays both
nostrils once a day
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - 500 mcg-50 mcg/Dose 
Disk
with Device - One Whiff inhaled twice a day
FUROSEMIDE - 20 mg Tablet - 3 Tablet(s) by mouth DAILY (60mg) as
per ___ Renal Dr. ___ - 2.5 mg Tablet - one Tablet by mouth every other day
(on the same day as prednisone)
HUMIDIFIER FOR HOME O2 -   - USE AS DIRECTED
HYDROCORTISONE - 2.5 % Cream - Apply to affected areas twice
daily for up to 2 weeks/month max twice a day
IPRATROPIUM-ALBUTEROL [COMBIVENT] - 103-18 mcg/Actuation Aerosol
- 2  puffs qid and prn as needed for SOB
LACTULOSE - 10 gram/15 mL Solution - 1 tablespoonful(s) by mouth
twice a day for constipation.  Hold for loose stool
LISINOPRIL -  (Dose adjustment - no new Rx) - 40 mg Tablet - 1
Tablet(s) by mouth every day
METFORMIN [GLUCOPHAGE] - 1,000 mg Tablet - 1 Tablet by mouth
twice  a day for blood sugar
ONE TOUCH ULTRA -   - use glucometer to check blood sugars as
directed
ONE TOUCH ULTRA PEN -   - use as directed to check bloodsugars
twice a day
OXYGEN-AIR DELIVERY SYSTEMS -  Device - SAT RATES: AT REST=86;
AMB=77
PANTOPRAZOLE - 40 mg Tablet, Delayed Release (E.C.) - 1 Tablet 
by
mouth twice a day
PREDNISONE - 10 mg Tablet - 1 Tablet by mouth take as per your
steroid taper from recent hospitalization with plan of returning
to 10mg QOD
SIMVASTATIN - 5 mg Tablet - 1 Tablet by mouth at bedtime for
cholesterol
TAMSULOSIN [FLOMAX] - 0.4 mg Capsule, Sust. Release 24 hr - 1
Capsule by mouth at bedtime for urination
TRIAMCINOLONE ACETONIDE - 0.1 % Ointment - apply to ear twice a
day stop using once rash clear
VITAMIN B-12 (CYANOCOBALAMIN) - 1000MCG/ML Solution - ONE CC Q
MONTH INTRAMUSCULARLY
XALATAN - 0.005% Drops - ONE GTT EACH EYE AT BEDTIME
 
Medications - OTC
ASPIRIN, BUFFERED [BUFFERED ASPIRIN] - 325 mg Tablet - 1
Tablet(s) by mouth qd with food
BLOOD SUGAR DIAGNOSTIC [ONE TOUCH ULTRA TEST] -     Strip - use 
4
times a day to check blood sugars
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 500 + D] - 500 mg-200 unit
Tablet - 1 Tablet(s) by mouth twice a day for bone health
DOCUSATE SODIUM [COLACE] - 100 mg Capsule - 1 Capsule by mouth
three times a day for constipation. Hold for loose stool
FERROUS SULFATE - 325 mg (65 mg Iron) Tablet - 1 (One) Tablet(s)
by mouth once a day
LANCETS [ONE TOUCH ULTRASOFT LANCETS] -   Misc - use as directed
to check bloodsugars
MAGNESIUM OXIDE [MAGOX] - 400 mg Tablet - 1 Tablet(s) by mouth
once a day
ONE TOUCH BASIC SYSTEM -  Kit - USE AS DIRECTED
SENNA - 8.6 mg Tablet - 2 Tablets by mouth at bedtime for
constipation.  Hold for loose stools
SYRINGE,SAFETY/NDL,1ML - 28GX0.5" Syringe - TO USE WITH VITAMIN
B12 INJECTIONS

 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Fluticasone-Salmeterol 100-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. Furosemide 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
7. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation every four (4) hours as 
needed for wheezing.  
8. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
9. Lactulose 10 gram/15 mL Syrup Sig: Fifteen (15) ML PO BID (2 
times a day).  
10. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
11. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
12. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
14. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for constipation.  
16. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
18. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
19. Prednisone 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily): 3 tablets for 2 days, then decrease by 5 mg every other 
day until at 10 mg, then continue 10 mg for 2 days, then every 
other day.
Disp:*20 Tablet(s)* Refills:*0*
20. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): Daily while taking prednisone daily, then every other 
day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
# End-stage COPD with acute exacerbation

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted with another episode of COPD.  Please take 
your medications as prescribed and seek medical attention if you 
develop worsening shortness of breath.  Please continue your 
efforts to quit smoking; it is imperitive that you quit smoking.
 
Followup Instructions:
___